US05047163
N-(3-Hydroxybenzylidene)-4-chlorobenzenesulfonamide (SULF-9)
In a similar manner to Example 2, 1.24 g (10 mmol) of 3-hydroxybenzaldehyde, 1.94 g (10 mmol) of 4-chlorobenzenesulfonamide and 20 mg of TsOH in 150 mL of toluene were heated for 12 hours to give 0.29 g (10%) of SULF-9 as a brown powder: IR (Nujol) 3400, 1658, 1556, 1458, 1155, 1025 cm-1 ; 1H NMR (DMSO-d6, TMS ext std) δ8.85 (s,1), 8.73 (s, 1), 7.7-7.2 (m, 8).

reactant | 3-hydroxybenzaldehyde | 10 mmol, 1.24 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 4-chlorobenzenesulfonamide | 10 mmol, 1.94 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Hydroxybenzylidene)-4-chlorobenzenesulfonamide | OC=1C=C(C=NS(=O)(=O)C2=CC=C(C=C2)Cl)C=CC1 | C13H10ClNO3S
